data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2367,"C#CC1(O[S:1](C2=CC=CC=C2)(C2=CC=CC=C2)[O:2]C(C2=CC=CC=C2)(C(F)(F)F)C(F)(F)F)CCC2OC21.OC(C1=CC=CC=C1)(C(F)(F)F)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,6590,"CCNC[CH:1]=[C:2](N)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3266,"CC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CC(C)C)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,3524,"CCO[C+:1]1C=CC=C[C:2]1(C(C)C)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1914,"CC(C)(C1C=CC=C1)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4405,"CO.N#[C:1][C:2]1([O-:3])CCOC2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,104,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=C[CH:1]([H:2])[C:3](C)=[N+:4]1C1=CC([N+](=O)[O-])=CC=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1483,"C=C1CCCCC1(CC(O)=[O:1])CC(O)CC.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7493,"CC(=O)O[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3640,"CN(C)[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,1301,"CC1=C[CH:1]([H:2])[C:3](C)=[N+:4]1CC1=CC=CO1.NCC1=CC=CO1.O.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6003,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(CN)(C1=CN=CC=C1)[O+:1](CC)[H:2].CC[OH:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8809,"NC(=C([N+](=O)[O-])[N+](=O)[O-])[NH2+:1][C:2](=O)[O-:3].O=C=O.O=S(=O)(O)O.O=[N+]([O-])C[N+](=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1614,"CO.CO[CH:1]=[N+:2](C)C.ClC1=CC=C([C:3](=[CH2:4])[OH:5])C=C1.NC1=NN=NN1.O=S(=O)([O-])[O-]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5344,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C2=C1C=CC=C2.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,4843,"CC(C)(C)[Si](C)(C)OC(COCC1=CC=CC=C1)CC1(CC([O-])CC2[CH2:1][O:2]2)SCCCS1.CC(C)(C)[Si](C)(C)OC(COCC1=CC=CC=C1)C[C:3]1([Li:4])SCCCS1.CC(C)C.[Li+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1199,"CCN[C:1](CCC=O)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5642,"CCC(=O)N[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,8755,"CC(C)(C)[Si](C)(C)OCC=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,5904,"C1=CC=C(C[NH2:1])C=C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6617,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC12CC[C:1]([OH:2])=[C:3](C)[C:4]1([OH2+:5])CCCC2=O.NC(CC1=CC=CC=C1)C(=O)O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O-]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1221,"CC(C)[N-:1]C(C)C.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7366,"CCCC(CO)C[C:1](=[OH+:2])[O:3][C:4](C)(C)C.O=C([O-])C(F)(F)F|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2283,"Br[C:1]1([H:2])OC=C[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1394,"CCN(CC)CC.CS(C)=[O:1].NN=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1.O=C(Cl)[C:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1326,"CO[C:1](O)=[NH+:2]CCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7145,"BrC1(OC2=CC=CC=C2)CC[C:1]1=[O:2].[Na][OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8542,"O=S(=O)(O)[O:1][H:2].OC(CC1=CC=CC=C1)=[O:3].OC1CCCCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9127,"N#[N+:1][CH2:2][CH:3]1C[CH2:4]1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4053,"C1CC[NH:1]C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8328,"C1CC[CH:1]=[C:2]([O-:3])C1.CCO[CH:4]=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5387,"CC(C)(C)[Si](OCC1OC(C[CH+]C[Si:1](C)(C)C)CC2OC(=O)OC21)(C1=CC=CC=C1)C1=CC=CC=C1.CCO[Si](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,4425,"COC1=CC(C2C3=C(C=C4OCOC4=C3)C(C[CH+:1][CH2:2][Si-:3](C)(C)(C)[O+](C)[B-](F)(F)F)C3COC(=O)C23)=CC(OC)=C1OC(=O)OCC1=CC=CC=C1|((3, 2), 1)"
train,pmechdb_split_0,0,6915,"CC(=O)[O-].COC1=C(C(OC(C)=O)C(NC(=O)C2=CC=CC=C2)[C:1](OC(C)=O)=[O:2])C([O-:3])=CC=C1.O=C(O)[O][K].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7480,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC[C:1](C)([OH2+:2])[O:3]CC(O)CO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9713,"CC(C)(C)[O:1][K].COCOCC1C([O:2][H:3])CC(OS(C)(=O)=O)C2C(C)C(=O)C=CC12C|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4295,"C[P+:1](C)(C)[O:2][H:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5546,"COC(OC)[O:1]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7969,"CC(=O)CC[CH:1]=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8449,"C1=CC=C([NH2:1])C=C1.C1CC[C:2](=[O:3])CC1.CC(=O)O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8946,"CC1=CC=C(S(=O)(=O)OC(C)CC[OH:1])C=C1.CC1=CC=C([S:2](=O)(Cl)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4846,"CC(C)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6885,"CN(C(=O)[C:1](C)=[N+:2]=[N-:3])C1=CC=CC=C1.O=C1CCC(=O)[N:4]1[Br:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
